US04351767
Preparation of 3α,6α-bis(t-butyloxy)-5β-cholest-24-ene
A solution of 3α,6α-bis(t-butyloxy)-5β-cholen-24-al (prepared as described in my U.S. patent application Ser. No. 236,160) was dissolved in 5 ml of tetrahydrofuran and added dropwise to the ylid solution (described in Example I). The mixture was stirred for 2 hours and then the solution was refluxed for 2 hours. After evaporation of the solvent, the residue was dissolved in a 90% methanol-10% water mixture, extracted with petroleum ether and the petroleum ether extract evaporated. The residue was identified by NMR and IR data as the 3α,6α-bis(t-butyloxy)-5β-cholest-24-ene.

reactant | 3α,6α-bis(t-butyloxy)-5β-cholen-24-al | C(C)(C)(C)O[C@H]1C[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](C=CC=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)OC(C)(C)C | C32H54O3
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3α,6α-bis(t-butyloxy)-5β-cholest-24-ene | C(C)(C)(C)O[C@H]1C[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCC=C(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)OC(C)(C)C | C35H62O2
